US08383633B2
N-(4-(4-(4H-1,2,4-Triazol-3-ylamino)-6-(3-cyclopropyl-3-fluoroazetidin-1-yl)pyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide (Compound I-6)
Compound I-6 was prepared according to the procedure of compound I-1 using N-(4-(4-(2H-1,2,4-Triazol-3-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide (140 mg, 0.36 mmol), 3-cyclopropyl-3-fluoroazetidine hydrochloride (62 mg), DiPEA (0.14 mL) in 1,4-dioxane (5 mL). After purification by column chromatography, the obtained material was further purified by preparative HPLC to yield 18 mg of desired product after evaporation and lyophilization, purity: 99+% (HPLC method A, Rf=8.466 minutes).

reactant | N-(4-(4-(2H-1,2,4-Triazol-3-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide | 0.36 mmol, 140 mg | N=1NC(=NC1)NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(=O)C1CC1 | C16H14ClN7OS
reactant | 3-cyclopropyl-3-fluoroazetidine hydrochloride | 62 mg | Cl.C1(CC1)C1(CNC1)F
reactant | DiPEA | 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-(4-(4-(4H-1,2,4-Triazol-3-ylamino)-6-(3-cyclopropyl-3-fluoroazetidin-1-yl)pyrimidin-2-ylthio)phenyl)cyclopropanecarboxamide | 18 mg | N=1N=C(NC1)NC1=NC(=NC(=C1)N1CC(C1)(F)C1CC1)SC1=CC=C(C=C1)NC(=O)C1CC1 | C22H23FN8OS
